data/oMe_Silver.jsonl
{"reaction_id": "NR-111_1-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_2-C(F)(F)F_3-CC_4-C_5-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_6-CCCC(C)C_7-C(C)(C)C","name": "Hosomi-Sakurai Reaction","level": "medium","reactants_smiles": ["C(=C(C)CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CC)C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(F)(F)F)[Si](C)(C)C","C(=O)(CCCC(C)C)C(C)(C)C","Cl[Ti](Cl)(Cl)Cl"],"products_smiles": ["C(=C(C)CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CC)C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(F)(F)F)C(O)(CCCC(C)C)C(C)(C)C"],"conditions": "Lewis Acid","mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(=[O+][Ti](Cl)(Cl)Cl)(CCCC(C)C)C(C)(C)C","rationale": "TiCl4, a strong Lewis acid, coordinates to the carbonyl oxygen, withdrawing electron density and increasing the electrophilicity of the carbonyl carbon for nucleophilic attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[Si](C)(C)(C)C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(F)(F)F)[C+](CC)C(C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(O[Ti](Cl)(Cl)Cl)(CCCC(C)C)C(C)(C)C","rationale": "The allylsilane attacks the activated carbonyl; β-silicon stabilization of the developing carbocation lowers the activation barrier under Lewis acidic conditions."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C(C)CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CC)C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(F)(F)F)C(O[Ti](Cl)(Cl)Cl)(CCCC(C)C)C(C)(C)C","rationale": "Loss of the silyl group occurs as the β-silyl carbocation collapses, restoring the alkene and forming a C–O–Ti bond, driven by the stability of the alkene and Ti–O bond."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=C(C)CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CC)C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(F)(F)F)C(O)(CCCC(C)C)C(C)(C)C","rationale": "Proton transfer from solvent or medium to the alkoxide–Ti complex releases the neutral alcohol, favored by the strong Ti–O bond cleavage upon protonation."}],"description": "In the Hosomi–Sakurai reaction, a Lewis acid activates the carbonyl toward nucleophilic attack by an allylsilane. Titanium tetrachloride coordinates to the carbonyl oxygen, enhancing electrophilicity. The allylsilane attacks, forming a β-silyl carbocation stabilized by hyperconjugation. Elimination regenerates the alkene, and proton transfer yields the alcohol product."}
{"reaction_id": "NR-128_1-C","name": "Kucherov Reaction","level": "medium","reactants_smiles": ["CC#C"],"products_smiles": ["CC(=O)C"],"conditions": "O, [H+]","mechanism": [{"step": 1,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C[C+]=C","rationale": "Protonation of the alkyne generates a more electrophilic vinyl cation, stabilized by adjacent substituents and resonance, facilitating subsequent nucleophilic attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CC(=C)[OH2+]","rationale": "Water, abundant under acidic conditions, attacks the electrophilic carbocation center, forming a protonated enol intermediate due to oxygen’s nucleophilicity."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CC(O)=C","rationale": "Deprotonation of the oxonium species restores neutrality, yielding the enol form, which is less stable than the keto tautomer."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CC(=[OH+])C","rationale": "Protonation at the enol oxygen increases the electrophilicity of the adjacent carbon, priming the system for tautomerization to the keto form."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CC(=O)C","rationale": "Deprotonation of the protonated carbonyl yields the thermodynamically favored ketone, driven by strong C=O bond formation and resonance stabilization."}],"description": "In the acid-catalyzed Kucherov reaction, an alkyne undergoes electrophilic hydration to yield a ketone via enol intermediates. Protonation activates the triple bond toward nucleophilic attack by water, followed by tautomerization driven by the thermodynamic stability of the carbonyl group."}
